US04508926
3-Chloro-4'-hydroxy-α-ethyl-benzhydrol
To a Grignard reactant prepared from 14.6 g. of magnesium turnings and 115 g. of 3-chloro-bromobenzene in 350 ml. of dry tetrahydrofurane a solution of 30.1 g. of 4'-hydroxy-propiophenone in 540 ml. of dry tetrahydrofurane is added dropwise, with stirring under slight reflux. The reaction mixture is slightly boiled for 30 additional minutes, cooled and decomposed by pouring onto a mixture of ice and glacial acetic acid. After separation the organic phase is washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. Crystallization of the solid residue from a mixture of n-hexane and ethyl acetate yields 42.6 g. of the named compound, melting at 132° to 134° C.

reactant | magnesium | [Mg] | Mg
reactant | 3-chloro-bromobenzene | ClC=1C=C(C=CC1)Br | C6H4BrCl
reactant | tetrahydrofurane | O1CCCC1 | C4H8O
reactant | 4'-hydroxy-propiophenone | OC1=CC=C(C=C1)C(CC)=O | C9H10O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Chloro-4'-hydroxy-α-ethyl-benzhydrol | ClC=1C=C(C(C2=CC=C(C=C2)O)(O)CC)C=CC1 | C15H15ClO2
